US06858651B2
A solution of 2.4 mg (5.26 mmol) of trans-N-[4-(5-Bromo-pentyl)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide in 36 ml of EtOH was treated with 2.1 ml (21.53 mmol) of ethyl-(2-hydroxy-ethyl)-amine, 1.8 g (21.43 mmol) of NaHCO3 and stirred over night at 90° C. The reaction cooled, filtered, evaporated and the residue extracted with aqueous saturated NaHCO3/EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4), filtered and evaporated. Purification by flash column chromatography on silica gel (EtOAc/EtOH/NH3 25% 98:2:1) gave 1.96 g (80%) of trans-N-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-4-trifluoromethyl-benzenesulfonamide, MS: 463 (M−H−).

reactant | trans-N-[4-(5-Bromo-pentyl)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide | 5.26 mmol, 2.4 mg | BrCCCCC[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C18H25BrF3NO2S
reactant | ethyl-(2-hydroxy-ethyl)-amine | 21.53 mmol, 2.1 ml | C(C)NCCO | C4H11NO
reactant | NaHCO3 | 21.43 mmol, 1.8 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 36 ml | CCO | C2H6O
product | trans-N-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-4-trifluoromethyl-benzenesulfonamide | 1.96 g, 80% | C(C)N(CCCCC[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CCO | C22H35F3N2O3S
